US03995052
A mixture of indene-3-ethanol (4.2 g) and N-(4-oxopentyl(acetamide (3.7 g), described by L. P. Kuhn et al., J. Am. Chem. Soc., 89, 3858 (1967), in 300 ml of dry benzene is stirred and heated at reflux. Water is collected in a Dean-Stark trap. After removal of the water five drops of boron trifluoride-etherate is added and the mixture refluxed 30 min. using the water-separator again. After stirring at room temperature overnight the reaction mixture is evaporated to dryness. The solid residue is dissolved in chloroform and washed successively with 10% aqueous sodium bicarbonate, water, and brine. The chloroform solution is dried over magnesium sulfate, filtered, and evaporated to yield 1-[3-(acetamido)propyl]-1-methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran, νmaxCHCl3 1650 cm-1.

reactant | indene-3-ethanol | 4.2 g | C1C=C(C2=CC=CC=C12)CCO | C11H12O
reactant | acetamide | 3.7 g | C(C)(=O)N | C2H5NO
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1-[3-(acetamido)propyl]-1-methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran | C(C)(=O)NCCCC1(OCCC2=C1CC=1C=CC=CC12)C | C18H23NO2
